US07148234B2
STEP 1. 2-[4-(4-Fluoro-2-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 2,5-difluoronitrobenzene and 4-aminophenylethyl alcohol.

reactant | 2,5-difluoronitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(4-Fluoro-2-nitroanilino)phenyl]ethanol | FC1=CC(=C(NC2=CC=C(C=C2)CCO)C=C1)[N+](=O)[O-] | C14H13FN2O3
